US04985427
Methyl [2-[(methylamino)carbonyl]-1-(3-propylphenyl)hydrazino]acetate
Methyl [1-(3-propylphenyl)hydrazino]acetate (700 mg) was dissolved in acetonitrile (10 ml) under nitrogen at room temperature. Methyl isocyanate (0.69 ml) was added to the solution which was then heated at 80° for 85 min. The solvent was removed in vacuo and the residue was dissolved in ether (10 ml). Hexane (20 ml) was added to precipitate a solid which was filtered off to give the title compound (677 mg), m.p. 76°-77°.

reactant | Methyl [1-(3-propylphenyl)hydrazino]acetate | 700 mg | C(CC)C=1C=C(C=CC1)N(N)CC(=O)OC | C12H18N2O2
reactant | Methyl isocyanate | 0.69 ml | CN=C=O | C2H3NO
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | Methyl [2-[(methylamino)carbonyl]-1-(3-propylphenyl)hydrazino]acetate | 677 mg | CNC(=O)NN(C1=CC(=CC=C1)CCC)CC(=O)OC | C14H21N3O3
